US09278922B2
4-fluoro-N,N-bis(3-nitrobenzyl)aniline
4-Fluoroaniline and 3-nitrobenzyl bromide were processed using the method described in Example 1A to provide 1.46 g (87%) of the title compound. 1H NMR (400 MHz, DMSO-D6) δ 4.88 (s, 4 H) 6.69-6.75 (m, 2 H) 6.97 (t, J=8.89 Hz, 2 H) 7.64 (t, J=7.81 Hz, 2 H) 7.70-7.74 (m, 2 H) 8.08-8.13 (m, 4 H).

reactant | 4-Fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 3-nitrobenzyl bromide | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
product | 4-fluoro-N,N-bis(3-nitrobenzyl)aniline | 1.46 g, 87% | FC1=CC=C(N(CC2=CC(=CC=C2)[N+](=O)[O-])CC2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C20H16FN3O4
